US07279469B2
{4-[5-Amino-3-(benzo[1,3]dioxol-5-ylamino)-[1,2,4]triazol-1-yl]-phenyl}-morpholin-4-yl-methanone:
A mixture of 4-[5-amino-3-(benzo[1,3]dioxol-5-ylamino)-[1,2,4]triazol-1-yl]-benzoic acid (0.15 g, 0.44 mmol), morpholine (0.05 mL, 0.55 mmol) and HBTU (0.21 g, 0.55 mmol) in THF (5 mL) was stirred at room temperature for 4 h. The reaction was diluted with water, extracted with methanol/dichloromethane, dried (sodium sulfate) and evaporated. Purification by 2 successive semi-preparative HPLC's provided the title compound (0.008 g, 5% yield) as a pale pink lyophilate.

reactant | 4-[5-amino-3-(benzo[1,3]dioxol-5-ylamino)-[1,2,4]triazol-1-yl]-benzoic acid | 0.44 mmol, 0.15 g | NC1=NC(=NN1C1=CC=C(C(=O)O)C=C1)NC1=CC2=C(OCO2)C=C1 | C16H13N5O4
reactant | morpholine | 0.55 mmol, 0.05 mL | N1CCOCC1 | C4H9NO
reactant | HBTU | 0.55 mmol, 0.21 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | {4-[5-Amino-3-(benzo[1,3]dioxol-5-ylamino)-[1,2,4]triazol-1-yl]-phenyl}-morpholin-4-yl-methanone | 0.008 g, 5% yield | NC1=NC(=NN1C1=CC=C(C=C1)C(=O)N1CCOCC1)NC1=CC2=C(OCO2)C=C1 | C20H20N6O4
